US04743685
(D) N-(2-Aminoethyl)-1,4-dihydro-5-hydroxy-4-oxo-2-pyridinecarboxamide, dihydrochloride
N-(2-Aminoethyl)-1,4-dihydro-5-hydroxy-4-oxo-2-pyridinecarboxamide, p-toluenesulfonate salt (5.42 g) was dissolved in 50 ml of formic acid and 7.5 ml of formic acid/hydrochloric acid gas (2.2 equivalents hydrochloric acid) was added followed by 150 ml of ether; white crystals of were obtained. Isolation by filtration and washing with 200 ml of ether yielded 2.60 g of the title compound, melting point 287° C.

reactant | N-(2-Aminoethyl)-1,4-dihydro-5-hydroxy-4-oxo-2-pyridinecarboxamide, p-toluenesulfonate salt | 5.42 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.NCCNC(=O)C=1NC=C(C(C1)=O)O
reactant | formic acid hydrochloric acid | 7.5 ml, 2.2 equivalents | C(=O)O.Cl
reactant | ether | 150 ml | CCOCC | C4H10O
solvent | formic acid | 50 ml | C(=O)O | CH2O2
product | N-(2-Aminoethyl)-1,4-dihydro-5-hydroxy-4-oxo-2-pyridinecarboxamide, dihydrochloride | 2.60 g | Cl.Cl.NCCNC(=O)C=1NC=C(C(C1)=O)O | InChI=1S/C8H11N3O3.2ClH/c9-1-2-10-8(14)5-3-6(12)7(13)4-11-5;;/h3-4,13H,1-2,9H2,(H,10,14)(H,11,12);2*1H
